US07396844B1
Synthesis of 3-[(3S)-4-[4-[1-(benzyloxycarbonyl)-4-piperidyloxy]phenyl]-3-(t-butoxycarbonylamino)-1-butenyl]benzonitrile
3.87 g (7.70 mmol) of methyl (2S)-3-[4-[1-(benzyloxycarbonyl)-4-piperidyloxy]phenyl]-2-(t-butoxycarbonylamino)propionate was dissolved in 77 ml of toluene. 19.3 ml (19.3 mmol) of 1.0 M solution of diisobutylaluminum hydride in hexane was added to the obtained solution at −78° C., and they were stirred for 10 minutes. 10 ml of methanol and 20 ml of saturated aqueous solution of potassium sodium tartrate were added to the resultant mixture, and they were stirred at room temperature for additional one hour. After the treatment with ethyl acetate as the extractant in an ordinary manner, the obtained oily residue was dissolved in a mixed solvent of 30 ml of ethanol and 30 ml of tetrahydrofuran. After the addition of 3.53 g (7.70 mmol) of (3-cyanobenzyl)triphenylphosphonium bromide and 1.15 ml (7.70 mmol) of DBU at room temperature, the resultant mixture was stirred for one hour. The solvent was distilled off under reduced pressure, and the residue was purified by the silica gel column chromatography to obtain the title compound in the form of a mixture of geometrical isomers (E:Z=2:3).

reactant | methyl (2S)-3-[4-[1-(benzyloxycarbonyl)-4-piperidyloxy]phenyl]-2-(t-butoxycarbonylamino)propionate | 7.70 mmol, 3.87 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C[C@@H](C(=O)OC)NC(=O)OC(C)(C)C | C28H36N2O7
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | (3-cyanobenzyl)triphenylphosphonium bromide | 7.70 mmol, 3.53 g | [Br-].C(#N)C=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1
reactant | DBU | 7.70 mmol, 1.15 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 77 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | 3-[(3S)-4-[4-[1-(benzyloxycarbonyl)-4-piperidyloxy]phenyl]-3-(t-butoxycarbonylamino)-1-butenyl]benzonitrile | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C[C@@H](C=CC=1C=C(C#N)C=CC1)NC(=O)OC(C)(C)C | C35H39N3O5
